US04041044
When in Example 1, the 2'-hydroxy-3',5'-di-tert-amyl-2-nitroazobenzene was replaced by an equivalent amount of 2'-hydroxy-3'-methyl-5'-tert-butyl-2-nitroazobenzene, the product 2-(2-hydroxy-3-methyl-5-tert-butylphenyl)-2H-benzotriazole was obtained after a reaction time of 5 hours in an isolated yield of 81% of theory with a melting point of 145°-146° C.

reactant | 2'-hydroxy-3',5'-di-tert-amyl-2-nitroazobenzene | OC1=C(C=C(C=C1C(C)(C)CC)C(C)(C)CC)N=NC1=C(C=CC=C1)[N+](=O)[O-] | C22H29N3O3
reactant | 2'-hydroxy-3'-methyl-5'-tert-butyl-2-nitroazobenzene | OC1=C(C=C(C=C1C)C(C)(C)C)N=NC1=C(C=CC=C1)[N+](=O)[O-] | C17H19N3O3
product | 2-(2-hydroxy-3-methyl-5-tert-butylphenyl)-2H-benzotriazole | yield of 81% | OC1=C(C=C(C=C1C)C(C)(C)C)N1N=C2C(=N1)C=CC=C2 | C17H19N3O
